US09359371B2
(3) Preparation: N-benzyl-2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-pyrimidine-5-formamide
In absolute THF (15 mL) were dissolved N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-formamide (200 mg, 0.45 mmol) and 3-azabicyclo[3.1.0]hexane hydrochloride salt (81 mg, 0.68 mmol). Triethylamine (137 mg, 1.35 mmol) was added dropwisely. The reaction was conducted at ambient temperature for 5 h. The solvent was removed by rotary evaporation, followed by addition of water and extraction with DCM. The organic phase was dried over sodium sulfate and concentrated. The obtained solid was purified by silica gel column chromatography (DCM/methanol=50/1) to give a yellow solid (50 mg, 24% yield).

reactant | N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-formamide | 0.45 mmol, 200 mg | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)S(=O)C)NCC1=CC(=C(C=C1)OC)Cl | C21H21ClN4O3S
reactant | 3-azabicyclo[3.1.0]hexane hydrochloride salt | 0.68 mmol, 81 mg | Cl.C12CNCC2C1
reactant | Triethylamine | 1.35 mmol, 137 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-benzyl-2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-pyrimidine-5-formamide | 50 mg, 24% yield | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)N1CC2CC2C1)NCC1=CC(=C(C=C1)OC)Cl | C25H26ClN5O2
